US08981084B2
Methyl 4-(5-cyanopyridin-2-yl)-1-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazine-2-carboxylate (130 mg, 0.3 mmol) was dissolved in MeOH (4 mL) and cooled to 0° C. 1N NaOH solution (0.3 mL) was added and the reaction mixture was slowly warmed to room temperature and stirred at 50° C. for 1 h. The MeOH was removed under reduced pressure and the aqueous layer was washed with EtOAc. The aqueous layer was acidified to pH 2-3 using 1.5N HCl, extracted with EtOAc, dried over anhydrous sodium sulfate and concentrated over reduced pressure. The crude product was purified by preparative TLC (eluent petroleum ether/EtOAc/AcOH 4:6:0.1 v/v) to get 4-(5-cyanopyridin-2-yl)-1-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazine-2-carboxylic acid (30 mg, yield 24%). 1H NMR (400 MHz, DMSO-d6) δ 8.49-8.47 (m, 1H), 8.20-8.12 (m, 1H), 8.07 (br s, 1H), 7.89-7.83 (m, 1H), 7.75-7.71 (m, 2H), 6.91 (d, J=7.6 Hz, 1H), 5.00-4.89 (m, 1H), 4.72-4.54 (m, 1H), 4.33-4.23 (m, 1H), 3.62-3.47 (m, 2H), 3.17-3.12 (m, 2H). MS (ESI) m/z: Calculated for C21H15F3N6O4: 472.11. found: 473.2 (M+H)+.

reactant | Methyl 4-(5-cyanopyridin-2-yl)-1-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazine-2-carboxylate | 0.3 mmol, 130 mg | C(#N)C=1C=CC(=NC1)N1CC(N(CC1)C(C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)=O)C(=O)OC | C22H17F3N6O4
reactant | NaOH | 1N, 0.3 mL | [OH-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
product | 4-(5-cyanopyridin-2-yl)-1-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazine-2-carboxylic acid | 30 mg, yield 24% | C(#N)C=1C=CC(=NC1)N1CC(N(CC1)C(C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)=O)C(=O)O | C21H15F3N6O4
